US03952001
A solution of 35.75 g. 3-propylthio-1,2,4-triazole in 150 ml. dry tetrahydrofuran was added dropwise to a stirred suspension of sodium hydride in mineral oil (14.4 g. of 50% suspension; 7.2 g. sodium hydride). The resulting mixture was refluxed with stirring for 1 hour. Heating was discontinued, and 40.9 g. dipropylcarbamoyl chloride was added dropwise to the stirred mixture, causing the evolution of heat with consequent refluxing. The reaction mixture was refluxed with stirring overnight, cooled, and filtered to remove sodium chloride formed in the reaction. The filtrate was distilled under reduced pressure to remove solvent, and the residual oil was dissolved in methylene dichloride. The resulting solution was washed successively with 0.5N sodium hydroxide solution, water, and finally 0.5N hydrochloric acid. The washed solution was distilled under pressure to give 1-dipropylcarbamoyl-3-propylthio-1,2,4-triazole, b.p. 118° - 120°C./0.1 mm. Elemental analysis satisfactory.

reactant | 3-propylthio-1,2,4-triazole | C(CC)SC1=NNC=N1 | C5H9N3S
reactant | sodium hydride | [H-].[Na+]
reactant | dipropylcarbamoyl chloride | C(CC)N(C(=O)Cl)CCC | C7H14ClNO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-dipropylcarbamoyl-3-propylthio-1,2,4-triazole | C(CC)N(C(=O)N1N=C(N=C1)SCCC)CCC | C12H22N4OS
